US09029560B2
Preparation of (Z)-1-(3-(2-isopropyl-4-methylphenyl)-4-methylthiazol-2(3H)-ylidene)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)urea (P20)
To a 20 mL vial was added 1-[(2-isopropyl-4-methyl-phenyl)carbamothioyl]-3-[[4-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]methyl]urea (PC5) (0.044 g, 0.077 mmol), sodium acetate (0.019 g, 0.23 mmol), 1-chloropropan-2-one (0.0092 mL, 0.12 mmol) and acetonitrile (1.5 mL). The vial was sealed and heated overnight at 65° C. The reaction mixture was diluted with brine solution and dichloromethane and passed through a phase separator. The organic layer was concentrated and the resulting residue was purified by flash column chromatography using 10-80% ethyl acetate/hexanes as eluent providing the title compound as an off-white solid (0.010 g, 21%): 1H NMR (400 MHz, DMSO-d6) δ 9.38 (s, 1H), 8.14-8.01 (m, 4H), 7.70 (s, 1H), 7.62 (dq, J=7.7, 1.0 Hz, 2H), 7.45-7.35 (m, 2H), 7.34-7.27 (m, 1H), 7.15 (t, J=1.3 Hz, 2H), 6.66 (q, J=0.9 Hz, 1H), 4.47-4.28 (m, 2H), 2.73-2.62 (m, 1H), 2.39 (s, 3H), 2.10 (d, J=1.1 Hz, 3H), 1.10 (d, J=6.8 Hz, 3H), 1.00 (d, J=6.8 Hz, 3H); 19F NMR (376 MHz, DMSO-d6) δ −56.96; ESIMS m/z 607 ([M+H]+).

reactant | 1-[(2-isopropyl-4-methyl-phenyl)carbamothioyl]-3-[[4-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]methyl]urea | 0.077 mmol, 0.044 g | C(C)(C)C1=C(C=CC(=C1)C)NC(=S)NC(=O)NCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C28H27F3N6O2S
reactant | sodium acetate | 0.23 mmol, 0.019 g | C(C)(=O)[O-].[Na+]
reactant | 1-chloropropan-2-one | 0.12 mmol, 0.0092 mL | ClCC(C)=O | C3H5ClO
reactant | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (Z)-1-(3-(2-isopropyl-4-methylphenyl)-4-methylthiazol-2(3H)-ylidene)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)urea | 0.010 g, 21% | C(C)(C)C1=C(C=CC(=C1)C)N1/C(/SC=C1C)=N/C(=O)NCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C31H29F3N6O2S
